US08877780B2
Sodium ethanethiolate (1.6 g, 17.2 mmol) was added to a solution of methyl 5-nitropicolinate (2.8 g, 16 mmol) in DMF (30 mL), and the resulting mixture was stirred a room temperature. After 3 hours, acetic acid (1 mL) was added, and the mixture was evaporated to dryness. The residue was suspended in methanol (50 mL) and treated with 3N NaOH. The resulting mixture was stirred at room temperature for 16 hours and then evaporated. The residue was dissolved in water (100 mL), washed with ethyl acetate (2×100 mL), and acidified to pH 3-4 (conc. HCl), resulting in precipitation of the product. The precipitate was filtered, rinsed with water (100 mL) and dried under vacuum, providing 2.3 g of 5-(ethylthio)picolinic acid, in 79% yield; 1H NMR (DMSO-d6) δ 1.23 (t, 3H, J=7.3 Hz), 3.14 (q, 2H, J=7.3 Hz), 7.86 (dd, 1H, J=8.4 Hz, J=2.4 Hz), 7.95 (dd, 1H, J=8.4 Hz, J=0.9 Hz), 8.57 (dd, 1H, J=2.4 Hz, J=0.9 Hz), 13.09 (br, 1H).

reactant | Sodium ethanethiolate | 17.2 mmol, 1.6 g | C(C)[S-].[Na+]
reactant | methyl 5-nitropicolinate | 16 mmol, 2.8 g | [N+](=O)([O-])C=1C=CC(=NC1)C(=O)OC | C7H6N2O4
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 5-(ethylthio)picolinic acid | 2.3 g, 79% yield | C(C)SC=1C=CC(=NC1)C(=O)O | C8H9NO2S
